US05202329
A mixture of 1.17 g of 4,7-dichloroquinoline, 1.0 g of 4,6-dimethyl-2-mercaptopyrimidine and 3 ml of N,N-dime thylimidazolidinone was heated at 80° C. for 1 hour. The reaction mixture was cooled and separated by column chromatography(n-hexane/ethyl acetate=1/1) to obtain 7-chloro-4-(4,6-dimethyl-2-pyrimidinylthio)-quinoline. Yield was 0.83 g. Melting point was 127.4°-129.5° C.

reactant | 4,7-dichloroquinoline | 1.17 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 4,6-dimethyl-2-mercaptopyrimidine | 1.0 g | CC1=NC(=NC(=C1)C)S | C6H8N2S
product | 7-chloro-4-(4,6-dimethyl-2-pyrimidinylthio)-quinoline | ClC1=CC=C2C(=CC=NC2=C1)SC1=NC(=CC(=N1)C)C | C15H12ClN3S
